US07713993B2
Thionyl chloride (5.3 mL) was added to a solution of 3-(4-fluorophenylamino)propan-1-ol (2.37 g) in toluene (30 mL) at room temperature, and the reaction solution was stirred at 60° C. for five hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. Ice and a saturated sodium bicarbonate solution were added to the residue, followed by extraction with ethyl acetate (100 mL). Heptane (100 mL) was added to the resulting extract, and the solution was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=1:1) to obtain (3-chloropropyl)-(4-fluorophenyl)amine. Triethylamine (5.4 mL) and phenyl chlorocarbonate (1.9 mL) were added to a solution of (3-chloropropyl)-(4-fluorophenyl)amine (2.40 g) in THF (40 mL) at 0° C., and the reaction solution was stirred at room temperature for 12 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain phenyl (3-chloropropyl)-(4-fluorophenyl)carbamate (3.93 g). Hydrazine monohydrate (0.40 mL) was added to a solution of phenyl (3-chloropropyl)-(4-fluorophenyl)carbamate (500 mg) in ethanol (10 mL) at room temperature. The reaction solution was stirred at room temperature for one hour, stirred at 60° C. for one hour and heated under reflux for seven hours. Hydrazine monohydrate (0.40 mL) was added to the reaction solution, and the reaction solution was heated under reflux for 13 hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the residue, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system) to obtain 265 mg of the title compound. The property values of the compound are as follows.

reactant | Thionyl chloride | 5.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(4-fluorophenylamino)propan-1-ol | 2.37 g | FC1=CC=C(C=C1)NCCCO | C9H12FNO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (3-chloropropyl)-(4-fluorophenyl)amine | ClCCCNC1=CC=C(C=C1)F | C9H11ClFN
